US05859006
Ethyl 1,2,3,4-tetrahydro-1-(4-trifluoromethoxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, cis and trans isomers
The same method but starting from racemic tryptophan ethyl ester and 4-trifluoromethoxybenzaldehyde gave cis and trans isomers of the title compound.

reactant | racemic tryptophan ethyl ester | C(C)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C13H16N2O2
reactant | 4-trifluoromethoxybenzaldehyde | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
product | Ethyl 1,2,3,4-tetrahydro-1-(4-trifluoromethoxyphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | FC(OC1=CC=C(C=C1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OCC)(F)F | C21H19F3N2O3
